US07186729B2
(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid
(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid methyl ester (0.060 g, 0.107 mmol) was dissolved in methanol (1.5 mL). Sodium hydroxide (150 uL, 1N stock solution) was added and the resulting mixture was stirred at room temperature. After stirring overnight at room temperature, the reaction mixture was concentrated in vacuo to give a yellow oil. The oil was suspended in water (2 mL) and then washed with ethyl acetate (3×3 mL). The aqueous layer was then acidified to pH=2 and extracted with ethyl acetate (3×5 mL). The pooled organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to afford a white solid (55 mg, 94%).

reactant | (5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid methyl ester | 0.107 mmol, 0.060 g | COC(COC1=CC2=C(OCC3=C(C2=CCCN2CC(C(CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C=CC=N3)C=C1)=O | C32H35ClN2O5
reactant | Sodium hydroxide | 1N, 150 uL | [OH-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | (5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid | 55 mg, 94% | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)OCC(=O)O)(C)C)O | C31H33ClN2O5
